US09315521B2
In a 250 mL round bottom flask, methyl 2-chloro-4-nitrobenzoate (5 g, 23 mmol) was dissolved in anhydrous dichloromethane (100 mL). The solution was cooled to −78° C. under nitrogen. Bis(2-methylpropyl)alumane (35 mL, 35 mmol, 1 M in hexane) was added dropwise. The mixture was stirred at −78° C. for 4 hours and quenched by addition of water (5 mL). The resulting mixture was warmed up to room temperature in 20 minutes. Na2SO4 (15 g) was added. After 10 minutes, the mixture was filtered. The filtrate was evaporated to provide (2-chloro-4-nitrophenyl)methanol (95% yield).

reactant | methyl 2-chloro-4-nitrobenzoate | 23 mmol, 5 g | ClC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | Bis(2-methylpropyl)alumane | 35 mmol, 1 M, 35 mL | CC(C[AlH]CC(C)C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-chloro-4-nitrophenyl)methanol | 95% yield | ClC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6ClNO3
